US05069819
Preparation of 3-(n-dodecylthio)-propanoic acid, methyl ester
Into the same type of equipment used in Example 1 was charged 405 grams of 98% 1-dodecanethiol with stirring to 1.0 grams of LiOH·H2O and 181 grams of 99% methyl acrylate. The addition was over a period of 20 minutes and the temperature increased to 80°-85° C. The reaction was stirred an extra 2 hours at 85°-95° C. The reaction mixture was then stripped at 122° C. and 10 mm pressure. 582 grams of product was obtained. Product analysis by GC indicated a purity of 92.1%.

reactant | 1-dodecanethiol | 405 grams | C(CCCCCCCCCCC)S | C12H26S
reactant | methyl acrylate | 181 grams | C(C=C)(=O)OC | C4H6O2
catalyst | LiOH·H2O | 1.0 grams | O[Li].O
product | 3-(n-dodecylthio)-propanoic acid, methyl ester | 582 grams | C(CCCCCCCCCCC)SCCC(=O)OC | C16H32O2S
